US06211329B1
435 g of benzaldehyde and 550 g 2,2-bis(hydroxymethyl)propanoic acid were allowed to react in the presence of a small amount of p-toluenesulphonic acid. The reaction was under stirring carried out at room temperature followed by heating to 40° C. under a low pressure (15 mm Hg). Yielded product was then dissolved in a mixture of 8000 ml aqueous sodium hydrogencarbonate (0.54M) and 2500 ml of diethyl ether. The aqueous phase was now washed with diethyl ether and acidified with 800 g of tartaric acid. The precipitate was collected and washed with water. Obtained product was finally recrystallized from ethanol/ethyl acetate to yield 745 g of 5-methyl-2-phenyl-1,3-dioxane-5-carboxylic acid.

reactant | benzaldehyde | 435 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2,2-bis(hydroxymethyl)propanoic acid | 550 g | OCC(C(=O)O)(C)CO | C5H10O4
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | sodium hydrogencarbonate | 0.54M, 8000 ml | C(O)([O-])=O.[Na+]
solvent | diethyl ether | 2500 ml | C(C)OCC | C4H10O
product | 5-methyl-2-phenyl-1,3-dioxane-5-carboxylic acid | 745 g | CC1(COC(OC1)C1=CC=CC=C1)C(=O)O | C12H14O4
